US07807709B2
N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-{(3R,4S)4-[(phenethyl-propionyl-amino)-methyl]-pyrrolidin-3-ylmethyl}-benzamide
The title compound is prepared analogously as described in Example 361 using ((3S*,4R*)-1-benzyl-4-hydroxymethyl-pyrrolidin-3-ylmethyl)-isopropyl-carbamic acid tert-butyl ester and 2-nitro-N-phenethyl-benzenesulfonamide in step F, then propionyl chloride as the acylating agent in step H and 3-(3-methoxy-propoxy)-4-methoxy-benzoic acid as acylating agent in step J. MS (LC-MS): 554.4 [M+H]+; tR (HPLC, Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 5.26 min.

reactant | ((3S*,4R*)-1-benzyl-4-hydroxymethyl-pyrrolidin-3-ylmethyl)-isopropyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C(C)C)C[C@@H]1CN(C[C@@H]1CO)CC1=CC=CC=C1)=O | C21H34N2O3
reactant | 2-nitro-N-phenethyl-benzenesulfonamide | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCC1=CC=CC=C1 | C14H14N2O4S
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | 3-(3-methoxy-propoxy)-4-methoxy-benzoic acid | COCCCOC=1C=C(C(=O)O)C=CC1OC | C12H16O5
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | CH3CN H2O | CC#N.O
product | N-Isopropyl-4-methoxy-3-(3-methoxy-propoxy)-N-{(3R,4S)4-[(phenethyl-propionyl-amino)-methyl]-pyrrolidin-3-ylmethyl}-benzamide | C(C)(C)N(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C[C@H]1CNC[C@H]1CN(C(CC)=O)CCC1=CC=CC=C1 | C32H47N3O5
